US07566736B2
1.09 g (7.1 mmol) of 4-fluoro-N1,N1-dimethylbenzene-1,3-diamine followed by 4.6 cm3 of pyridine are added, at a temperature in the region of 5° C., under an argon atmosphere, to 2.82 g (9.5 mmol) of triphosgene in solution in 150 cm3 of dichloromethane. After stirring for 18 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), to give a residue which is triturated in 40 cm3 of tetrahydrofuran. After filtration, a solution of 5-dimethylamino-2-fluorophenyl isocyanate in approximately 0.14 N tetrahydrofuran is obtained, which solution is used directly in the subsequent step.

reactant | 4-fluoro-N1,N1-dimethylbenzene-1,3-diamine | 7.1 mmol, 1.09 g | FC1=C(C=C(C=C1)N(C)C)N | C8H11FN2
reactant | pyridine | 4.6 cm3 | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 9.5 mmol, 2.82 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | 5-dimethylamino-2-fluorophenyl isocyanate | CN(C=1C=CC(=C(C1)N=C=O)F)C | C9H9FN2O
